* NGSPICE file created from aimc_converter_macro_active_candidate_flat.ext - technology: sky130A

.subckt aimc_converter_macro_active_candidate_flat vss vdd row_drive sar_comparator_input
+ decision_p decision_n reset eval vss_escape latch_sense_p_ext latch_sense_n_ext
+ iso_tail_ext tail_ext vdd_ext
X0 physical_preamp_0.iso_tail physical_preamp_0.sense_n vdd_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X1 vdd_ext decision_p decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X2 tail_ext eval vss_escape vss_escape sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X3 vdd_ext physical_preamp_0.sense_p physical_preamp_0.iso_tail vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X4 decision_p latch_sense_p_ext tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X5 vdd_ext reset decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X6 tail_ext latch_sense_n_ext decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X7 decision_p decision_n vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X8 tail_ext decision_p decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X9 latch_sense_p_ext row_drive iso_tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X10 iso_tail_ext sar_comparator_input latch_sense_n_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X11 decision_p reset vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X12 decision_p decision_n tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 physical_preamp_0.iso_tail li_67560_3080# 0.00653f
C1 physical_preamp_0.sense_p m2_64900_1400# 0.03788f
C2 decision_p latch_sense_p_ext 0.18428f
C3 vss latch_sense_n_ext 0.23329f
C4 m2_64900_1400# row_drive 0.01663f
C5 physical_preamp_0.sense_p row_drive 0.19241f
C6 vdd_ext tail_ext 1.9856f
C7 shared_converter_mux_0.vdd row_drive 0.00246f
C8 sar_readout_12b_0.vdd row_drive 0.58157f
C9 shared_converter_mux_0.mux_bus vss 0.03132f
C10 decision_n latch_sense_n_ext 0.18428f
C11 latch_sense_p_ext row_drive 0.6214f
C12 decision_p reset 0.376f
C13 iso_tail_ext row_drive 2.39704f
C14 vdd_ext vss 0.21361f
C15 decision_n reset 0.31048f
C16 sar_readout_12b_0.vdd iso_tail_ext 0.27521f
C17 physical_preamp_0.sense_n sar_comparator_input 0.07548f
C18 latch_sense_p_ext iso_tail_ext 0.12577f
C19 vdd_ext physical_preamp_0.sense_n 0.05679f
C20 row_dac_10b_0.vss row_drive 1.08123f
C21 row_drive latch_sense_n_ext 0.57746f
C22 sar_readout_12b_0.vss row_drive 0.29433f
C23 physical_preamp_0.sense_n physical_preamp_0.iso_tail 0.12781f
C24 decision_p vdd_ext 3.8282f
C25 physical_preamp_0.sense_n li_67560_3080# 0.10132f
C26 decision_n vdd_ext 3.9382f
C27 sar_readout_12b_0.vss sar_readout_12b_0.vdd 0.49712f
C28 vdd_ext eval 0
C29 m2_64900_1400# sar_comparator_input 0.1759f
C30 physical_preamp_0.sense_p sar_comparator_input 0.04049f
C31 iso_tail_ext latch_sense_n_ext 0.12577f
C32 vdd_ext m2_64900_1400# 0.94428f
C33 shared_converter_mux_0.mux_bus row_drive 0.06281f
C34 sar_readout_12b_0.vss iso_tail_ext 0.60045f
C35 physical_preamp_0.sense_p vdd_ext 0.07662f
C36 shared_converter_mux_0.vdd shared_converter_mux_0.mux_bus 1.55306f
C37 shared_converter_mux_0.vss row_drive 0.00246f
C38 m2_64900_1400# physical_preamp_0.iso_tail 0.34303f
C39 sar_comparator_input row_drive 5.24644f
C40 row_dac_10b_0.vdd row_drive 1.11462f
C41 m2_64900_1400# li_67560_3080# 0
C42 physical_preamp_0.sense_p physical_preamp_0.iso_tail 0.13895f
C43 physical_preamp_0.sense_p li_67560_3080# 0
C44 vdd_ext row_drive 4.1744f
C45 shared_converter_mux_0.vdd vdd_ext 0
C46 sar_readout_12b_0.vdd vdd_ext 1.39936f
C47 decision_p tail_ext 0.48065f
C48 physical_preamp_0.iso_tail row_drive 0.38216f
C49 decision_n tail_ext 0.48065f
C50 li_67560_3080# row_drive 2.7609f
C51 eval tail_ext 0.36751f
C52 iso_tail_ext sar_comparator_input 0.16721f
C53 latch_sense_p_ext vdd_ext 3.43095f
C54 vdd_ext iso_tail_ext 0.86179f
C55 row_dac_10b_0.vss row_dac_10b_0.vdd 0.78467f
C56 sar_comparator_input latch_sense_n_ext 0.04279f
C57 vdd_ext latch_sense_n_ext 3.48444f
C58 sar_readout_12b_0.vss vdd_ext 0.93663f
C59 reset vdd_ext 4.48789f
C60 latch_sense_p_ext tail_ext 0.0334f
C61 shared_converter_mux_0.vss shared_converter_mux_0.mux_bus 1.56188f
C62 decision_n decision_p 2.54301f
C63 shared_converter_mux_0.mux_bus vdd_ext 0.00217f
C64 vss row_drive 0.22445f
C65 m2_64900_1400# physical_preamp_0.sense_n 0.04189f
C66 shared_converter_mux_0.vdd vss 0.2816f
C67 shared_converter_mux_0.vss vdd_ext 0
C68 vdd_ext sar_comparator_input 1.11374f
C69 vdd row_drive 0.1964f
C70 tail_ext latch_sense_n_ext 0.0334f
C71 physical_preamp_0.iso_tail sar_comparator_input 0.03759f
C72 physical_preamp_0.sense_n row_drive 0.09115f
C73 latch_sense_p_ext vss 0.23329f
C74 vdd_ext physical_preamp_0.iso_tail 0.49541f
C75 vdd_ext li_67560_3080# 0.56522f
C76 reset tail_ext 0.17577f
C77 vss vss_escape 36.2211f
C78 vdd vss_escape 36.7f
C79 iso_tail_ext vss_escape 66.3001f
C80 latch_sense_n_ext vss_escape 8.9128f
C81 latch_sense_p_ext vss_escape 36.4191f
C82 decision_p vss_escape 7.38983f
C83 tail_ext vss_escape 81.08725f
C84 vdd_ext vss_escape 0.26184p
C85 m2_64900_1400# vss_escape 0.67354f ; **FLOATING
C86 sar_readout_12b_0.vss vss_escape 1.33686f ; **FLOATING
C87 row_dac_10b_0.vss vss_escape 1.40333f ; **FLOATING
C88 row_dac_10b_0.vdd vss_escape 1.33457f ; **FLOATING
C89 sar_readout_12b_0.vdd vss_escape 1.77614f ; **FLOATING
C90 shared_converter_mux_0.vss vss_escape 1.39454f ; **FLOATING
C91 shared_converter_mux_0.mux_bus vss_escape 2.86922f ; **FLOATING
C92 shared_converter_mux_0.vdd vss_escape 0.95985f ; **FLOATING
C93 li_67560_3080# vss_escape 8.17525f ; **FLOATING
C94 physical_preamp_0.iso_tail vss_escape 4.29677f
.ends

